US05883102
Ethyl N-(4,4-diethoxybutyl)carbamate
Ethyl chloroformate (0.3 ml, 3.1 mmol) was added dropwise to a solution of 4-aminobutanal diethyl acetal (0.5 ml, 2.9 mmol) and pyridine (0.28 ml, 3.5 mmol) in dichloromethane (10 ml) at 5° C. The mixture was stirred for 30 min. Water was added and the mixture was extracted with ether. The ether was dried (sodium sulphate) and evaporated to give the product as a yellow oil, MS (+EI) 232 ([M-H]+), 1H NMR (CDCl3) 4.69 (1H, s), 4.4 (1H, t), 4.00 (2H, q), 3.5-3.65 (2H, m), 3.35-3.5 (2H, m), 3.05-3.15 (2H, m), 1.5-1.6 (4H, m), 1.1-1.2 (9H, m).

reactant | Ethyl chloroformate | 3.1 mmol, 0.3 ml | ClC(=O)OCC | C3H5ClO2
reactant | 4-aminobutanal diethyl acetal | 2.9 mmol, 0.5 ml | C(C)OC(CCCN)OCC | C8H19NO2
reactant | pyridine | 3.5 mmol, 0.28 ml | N1=CC=CC=C1 | C5H5N
reactant | Water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Ethyl N-(4,4-diethoxybutyl)carbamate | C(C)OC(CCCNC(OCC)=O)OCC | C11H23NO4
